US06472412B1
Potassium hydroxide (1.98 g) in water (12 mL) is added to a solution of cyclopentyl 6-cyclopentyloxy-5-methoxypyridine-2-carboxylate (3.6 g) in methanol (35 mL) and the mixture stirred at room temperature for 2.5 hours. The solution is concentrated to half of the original volume and diluted with water. The solution is acidified to pH 4 with concentrated hydrochloric acid and the product extracted with ethyl acetate. The extracts are dried (MgSO4) and concentrated to give 6-cyclopentyloxy-5-methoxypyridine-2-carboxylic acid (1.38 g) as a yellow solid, m.p. 96-99° C.

reactant | Potassium hydroxide | 1.98 g | [OH-].[K+]
reactant | cyclopentyl 6-cyclopentyloxy-5-methoxypyridine-2-carboxylate | 3.6 g | C1(CCCC1)OC1=C(C=CC(=N1)C(=O)OC1CCCC1)OC | C17H23NO4
solvent | water | 12 mL | O | H2O
solvent | methanol | 35 mL | CO | CH4O
product | 6-cyclopentyloxy-5-methoxypyridine-2-carboxylic acid | 1.38 g | C1(CCCC1)OC1=C(C=CC(=N1)C(=O)O)OC | C12H15NO4
